US07781591B2
3-Methyl-4-nitroaniline was treated with iodine and silver sulfate to give 2-iodo-5-methyl-4-nitroaniline. Treatment of the nitroaniline with 2-(trimethylsilyl)acetylene under the typical Sonogashira conditions gave 5-methyl-4-nitro-2-[(trimethylsilyl)ethynyl]aniline, which was treated with a base in an aqueous methanolic solution to give 2-ethynyl-5-methyl-4-nitroaniline. A subsequent base-induced cyclization at an elevated temperature gave 5-nitro-6-methylindole, which was treated under a high pressure hydrogenation condition to provide 5-amino-6-methylindole.

reactant | 3-Methyl-4-nitroaniline | CC=1C=C(N)C=CC1[N+](=O)[O-] | C7H8N2O2
reactant | iodine | II | I2
catalyst | silver sulfate | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-iodo-5-methyl-4-nitroaniline | IC1=C(N)C=C(C(=C1)[N+](=O)[O-])C | C7H7IN2O2
